Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / IV contrast Dye / lactose
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old woman with history of chronic back pain 
___ spinal stenosis s/p L4-5 laminectomy in ___ and L5-S1 
spinal fusion ___, asthma (has required hospitalization in the 
past but never ICU-level care or intubation), current smoker, 
who presents with 2 days of worsening dyspnea, cough.

She reports that for the past two days, she been dyspneic with 
cough and audible wheezes. She denies any fever, chills, nausea, 
vomiting. No urinary complaints. She has been using MDI at home, 
and she was concerned about how often she has been using it. She 
endorses gradual worsening of symptoms and thus presented to ED. 
For her asthma, she takes albuterol as needed and uses her 
flovent inhaler infrequently. She  has one exacerbation 
requiring admission every year. She has not seen a pulmonologist 
in many months. She is a long time smoker, has been smoking for 
___ years, currently smokes ___ packs a day. No recent URI sxs, 
sick contacts or recent travel. She also reports chronic back 
pain with hx of spinal fusion surgeries and was previously on 
oxycodone but currently not taking anything.

In the ED, initial VS were: 98.8 84 124/66 24 93% RA 
ED physical exam was recorded as uncomfortable vomiting into 
emesis basin, nebulizer mask in place speaking in ___ word 
sentences lungs with diffuse wheeze throughout
ED labs were notable for WBC 13.4, K 3.2 --> 4 (after 
repletion), VBG with pH 7.39, pCO2 49, bicarb 31
CXR did not show any infiltrate or pulmonary edema

 Patient initially received 3 alb/ipra nebs (15 mins apart), 
methylpred, and mag sulfate. Later given zofran, Tylenol, NS and 
pred 60mg. She was also given additional albuterol, duoneb and 
tylenol

She was admitted for moderately severe asthma exacerbation 
likely in need of Q2 nebs overnight and close respiratory 
monitoring

Transfer VS were: 98 57 99/53 16 94% RA 
 
On arrival to floor, she reports feeling better.

REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
Spinal stenosis s/p L4-5 laminectomy in ___ and L5-S1 spinal 
fusion ___
Asthma 
HTN
Migraine headaches
 
Social History:
___
Family History:
No hx of asthma
 
Physical Exam:
Admission exam:
 Gen: NAD, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, diffuse expiratory wheezes, lungs CTA ___.
 GI: soft, NT, ND, BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Full range of affect

Discharge exam:
VS:  98.4 93/57 78 18 99% RA
General: Well appearing woman, sitting up in bed in NAD
Eyes: EOMI, sclera anicteric
ENT: MMM, oropharynx clear  
Respiratory: CTAB without crackles, wheeze, rhonchi. 
Cardiovascular: RRR, normal S1 and S2, no murmurs, rubs or
gallops
Gastrointestinal: Soft, nontender, nondistended, +BS 
Extremities: Warm and well perfused, no peripheral edema 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert and oriented x3,  motor and sensory exam
grossly intact 
 
Pertinent Results:
Admission labs:
___ 01:00AM URINE  HOURS-RANDOM
___ 01:00AM URINE  UHOLD-HOLD
___ 01:00AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-70 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 12:58AM   K+-4.0
___ 04:51PM   O2 SAT-81
___ 04:30PM   NEUTS-71.5* ___ MONOS-6.7 EOS-0.4* 
BASOS-0.4 IM ___ AbsNeut-9.60* AbsLymp-2.76 AbsMono-0.90* 
AbsEos-0.05 AbsBaso-0.05

Discharge labs:

___ 07:50AM BLOOD WBC-13.8* RBC-4.11 Hgb-12.5 Hct-38.0 
MCV-93 MCH-30.4 MCHC-32.9 RDW-13.8 RDWSD-47.0* Plt ___
___ 07:50AM BLOOD Glucose-177* UreaN-14 Creat-0.7 Na-136 
K-4.3 Cl-99 HCO3-24 AnGap-17
___ 07:50AM BLOOD ___ PTT-27.6 ___

Micro: Ucx ___ pending

Imaging:
___ CXR
FINDINGS:  
  
Heart size is within normal limits.  Mediastinal and hilar 
contours are 
unchanged.  Pulmonary vasculature is not engorged.  No focal 
consolidation, 
pleural effusion, or pneumothorax is seen.  There is minimal 
patchy 
atelectasis at the lung bases.  No acute osseous abnormalities 
detected. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 

 
Brief Hospital Course:
___ year old woman with history of chronic back pain ___ spinal 
stenosis s/p L4-5 laminectomy in ___ and L5-S1 spinal fusion 
___, asthma (has required hospitalization in the past but never 
ICU-level care or intubation), current smoker, who presents with 
2 days of worsening dyspnea, cough, consistent with asthma 
exacerbation.

# Asthma exacerbation: Pt has a long standing hx of smoking 
which predisposes her to asthma exacerbations. No evidence of 
COPD without sputum production or chest imaging showing 
flattened diaphragms or hyperexpansion of lungs. She is using 
her home inhaled corticosteroid intermittently but not 
regularly, which is likely contributing to incomplete control. 
She does not appear to have a precedent viral URI that would 
have triggered her exacerbation. She was satting well on room 
air and is improved after therapies initiated in the ED, and 
started on 60mg daily predisone burst for 5 days. On day of 
discharge she felt very well and had good air movement without 
wheeze. Discharged to complete 5 day course of steroids and 
provided with rx for new ICS and albuterol inhalers. Referred to 
pulmonology for better outpatient management. Advised to quit 
smoking, but states that she has had issues with nicotine 
replacement included stroke with nicotine patches. She wants to 
quit and plans to go down on her number of cigarettes slowly. 
She should follow up with her PCP regarding smoking cessation 
methods. Attempted to check peak flow, but unable to coordinate 
before discharge so should have PFTs and peak flow checked on 
outpatient follow up. 

# HTN: Borderline SBP in high ___ on arrival but improved prior 
to discharge. Discharged on home HCTZ and lisinopril. 

# Chronic back pain: Longstanding, two prior surgeries. Past Tx 
with Percocet. Most recently she was given neurontin 300 TID, 
but was unable to tolerate this due to sedation. Given that 
risks and limitations of long-term opiates, did not start 
opioids and will maintained on tramadol as per PCP recs from 
last clinic note
 
Transitional issues:
-Discharged on 5 day course of prednisone, to finish ___
-Patient will need additional counseling on smoking cessation as 
she has had problems with patches and other nicotine replacement 
in the past
-Patient will need to follow up with pulmonology for closer 
management of her asthma
#Code status: Full 
#Health care proxy: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 90 mcg/actuation inhalation QID:PRN 
2. Flovent HFA (fluticasone) 220 mcg/actuation inhalation BID 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  PredniSONE 60 mg PO DAILY Duration: 4 Days 
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*4 Tablet 
Refills:*0 
2.  albuterol sulfate 90 mcg/actuation inhalation QID:PRN 
RX *albuterol sulfate [ProAir HFA] 90 mcg 2 puffs inh every four 
(4) hours Disp #*1 Inhaler Refills:*0 
3.  Flovent HFA (fluticasone) 220 mcg/actuation inhalation BID 
RX *fluticasone [Flovent HFA] 220 mcg 1 puff inh twice a day 
Disp #*1 Inhaler Refills:*0 
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Asthma exacerbation

Secondary: Hypertension, chronic pain syndrome 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ for shortness of breath, likely due 
to an asthma exacerbation. You improved significantly with 
nebulizer treatments and steroids. You should take the steroids 
for 4 more days. Please make sure to take your Flovent inhaler 
every day. 

You should follow up with your PCP for additional assistance 
with quitting smoking, which will be the best thing you can do 
for your health and specifically to prevent further asthma 
exacerbations. 

You should also follow up with pulmonology (lung doctors) to 
help manage your asthma. 

It was a pleasure caring for you, 

Your ___ Care Team 
 
Followup Instructions:
___